US08802659B2
A mixture of cis-4-tert-butylcyclohexanol (927 mg, 0.00593 mol), 6-hydroxy-naphthalene-2-carboxylic acid methyl ester (1.00 g, 0.00494 mol) and triphenylphosphine (1560 mg, 0.00593 mol) in toluene (10 mL, 0.1 mol) was heated to reflux, and diisopropyl azodicarboxylate (1.17 mL, 0.00593 mol) was added dropwise and was stirred and refluxed for 6 hours. The mixture was taken up into dichloromethane and was purified via column chromatography with ethyl acetate:hexane (0:100 to 40:60) to give methyl 6-(trans-4-tert-butylcyclohexyloxy)-2-naphthoate as a white solid (0.95 g, 56%). 1H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 8.01 (dd, J=8.7, 1.7 Hz, 1H), 7.84 (d, J=9.6 Hz, 1H), 7.73 (d, J=8.7 Hz, 1H), 7.17 (m, 2H), 4.34 (m, 1H), 3.97 (s, 3H), 2.30 (m, 2H), 1.92 (m, 2H), 1.52-1.14 (m, 5H), 0.91 (s, 9H).

reactant | cis-4-tert-butylcyclohexanol | 0.00593 mol, 927 mg | C(C)(C)(C)[C@H]1CC[C@H](CC1)O | C10H20O
reactant | 6-hydroxy-naphthalene-2-carboxylic acid methyl ester | 0.00494 mol, 1.00 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)O | C12H10O3
reactant | triphenylphosphine | 0.00593 mol, 1560 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 0.1 mol, 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | diisopropyl azodicarboxylate | 0.00593 mol, 1.17 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 6-(trans-4-tert-butylcyclohexyloxy)-2-naphthoate | 0.95 g, 56% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C22H28O3
